US07482341B2
3-Chloro-N-[6-(4-fluoro-benzyloxymethyl)-pyridin-2-yl]-2-methyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(4-fluoro-benzyloxymethyl)-pyridin-2-ylamine (0.058 g) and 3-chloro-2-methyl-benzenesulfonyl chloride (0.062 g) as a light yellow gum (0.087 g). MS (ESI−): 419.0. ([M−H]−)

reactant | 6-(4-fluoro-benzyloxymethyl)-pyridin-2-ylamine | 0.058 g | FC1=CC=C(COCC2=CC=CC(=N2)N)C=C1 | C13H13FN2O
reactant | 3-chloro-2-methyl-benzenesulfonyl chloride | 0.062 g | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
product | 3-Chloro-N-[6-(4-fluoro-benzyloxymethyl)-pyridin-2-yl]-2-methyl-benzenesulfonamide | ClC=1C(=C(C=CC1)S(=O)(=O)NC1=NC(=CC=C1)COCC1=CC=C(C=C1)F)C | C20H18ClFN2O3S
